US07947686B2
To a solution of 94.1 g of 3-amino-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester in 1.7 L of THF were added 135 mL of N,N-diisopropylethylamine. A solution of 37.6 mL of ethyl chloroformate in 300 mL of THF was added dropwise at 0° C. during 75 min. The mixture was stirred at 0° C. for 30 min. then evaporated under vacuum. The residue was taken-up with 1 L of water and extracted with ethyl acetate. The combined organic extracts were washed with 500 mL brine, dried over sodium sulfate, and evaporated to dryness. The crude mixture of isomers was purified by silica gel flash-chromatography, using a starting 87:13 mixture of dichloromethane-ethyl acetate as eluant, and increasing gradually the percentage of ethyl acetate up to 50%. The fractions containing the same isomer were evaporated to give 61.6 g of 3-amino-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridine-2,5-dicarboxylic acid 5-tert-butyl ester 2-ethyl ester.

reactant | 3-amino-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 94.1 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)NN=C2N | C11H18N4O2
reactant | N,N-diisopropylethylamine | 135 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl chloroformate | 37.6 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 1.7 L | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 3-amino-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridine-2,5-dicarboxylic acid 5-tert-butyl ester 2-ethyl ester | 61.6 g | CCOC(=O)N1N=C2C(CN(CC2)C(=O)OC(C)(C)C)=C1N | C14H22N4O4
